US06610707B1
Mercuric oxide (204 mg) was added to a solution of 2-((2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidylcarbonyl)-1-hydrazinecarbothioamide (170 mg) [see Preparation 45] in 1,4-dioxane (5 ml). The reaction mixture was heated under reflux and stirred for 4 hours. The resulting suspension was filtered through a plug of ARBOCEL (trade mark) filter aid, washing with dichloromethane:methanol (90:10, by volume). The filtrate was evaporated under reduced pressure and purified by column chromatography on silica gel eluting with, 100:0 changing to 90:10 (in 5% increments), by volume, dichloromethane:methanol. The product was further purified by column chromatography on silica gel eluting with 0:100 changing to 60:40, by volume, ethyl acetate:hexane, to afford 2-amino-5-[(2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidyl]-1,3,4-oxadiazole (64 mg) as a white solid.

reactant | 2-((2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidylcarbonyl)-1-hydrazinecarbothioamide | 170 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)NNC(N)=S | C13H17FN4O3S2
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-amino-5-[(2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidyl]-1,3,4-oxadiazole | 64 mg | NC=1OC(=NN1)[C@H]1N(CCCC1)S(=O)(=O)C1=CC=C(C=C1)F | C13H15FN4O3S
